US08278319B2
Step 4: tert-Butyl 4,4-bis(2-hydroxyethyl)piperidine-1-carboxylate
To a solution of 2,2′-(1-benzylpiperidine-4,4-diyl)diethanol (1.8 g, 6.844 mmol) was added (Boc)2O (1.93 g, 8.89 mmol) and Pd/C (600 mg). The mixture was hydrogenated under Parr shaker at 50 psi overnight. TLC revealed complete conversion and the reaction mixture was filtered though celite and washed with methanol. The filtrate was concentrated and purified by column chromatography (silica (100-200), MeOH/DCM (6%)) to yield the desired product. Yield: 81%

reactant | 2,2′-(1-benzylpiperidine-4,4-diyl)diethanol | 6.844 mmol, 1.8 g | C(C1=CC=CC=C1)N1CCC(CC1)(CCO)CCO | C16H25NO2
reactant | (Boc)2O | 8.89 mmol, 1.93 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | tert-Butyl 4,4-bis(2-hydroxyethyl)piperidine-1-carboxylate | Yield: 81% | OCCC1(CCN(CC1)C(=O)OC(C)(C)C)CCO | C14H27NO4
